US07544705B2
1-Phenyl-tetrahydro-1H-pyrrolo[1,2-a]imidazole-2,5-dione
To a solution of tetrahydro-pyrrolo[1,2-a]imidazole-2,5-dione (1 g, 7.14 mmol; prepared as described in J. Med. Chem. 36, 4214-4220, 1994,) in N-methylpyrrolidone (NMP, 12 cc), Cul (0.2 g, 1.05 mmol), K2CO3 (1 g, 7.14 mmol) and iodobenzene (5 g, 24.5 mmol) were added under stirring. The suspension was heated in a microwave apparatus (250 Watt) for 45 min. Ethyl acetate was added to the suspension and the solid was filtered. The organic phase was washed with water and the aqueous phase was re-extracted with CH2Cl2. The organic phases were gathered and dried over Na2SO4, filtered and concentrated to dryness. The residue was triturated with isopropyl ether. The solid was filtered, triturated with water and filtered to yield 0.18 g of the title compound, mp=185-188° C.

reactant | tetrahydro-pyrrolo[1,2-a]imidazole-2,5-dione | 7.14 mmol, 1 g | N1C2N(CC1=O)C(CC2)=O | C6H8N2O2
reactant | K2CO3 | 7.14 mmol, 1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodobenzene | 24.5 mmol, 5 g | IC1=CC=CC=C1 | C6H5I
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N-methylpyrrolidone | 12 cc | CN1C(CCC1)=O | C5H9NO
product | 1-Phenyl-tetrahydro-1H-pyrrolo[1,2-a]imidazole-2,5-dione | 0.18 g | C1(=CC=CC=C1)N1C2N(CC1=O)C(CC2)=O | C12H12N2O2
